Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Fever, LLQ abdominal pain, diarrhea
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy (___)
Peripherally inserted central catheter (PICC) placement 
(___)
 
History of Present Illness:
___ ___ man with a past medical history of refractory 
crohn's disease with recent discharge on ___ following 
crohn's flare, GERD, diverticulosis, nephrolithiasis, who 
presents with fever, left lower quadrant abdominal pain, and 
diarrhea for the last three days.

Patient had been admitted on ___ due to the development of 
fever to 102.3 and bloody diarrhea thought to be secondary to 
refractory crohn's flare.  He underwent sigmoidoscopy on 
___ which demonstrated discrete large colonic ulcers 
consistent with a crohn's flare, verified by biopsy.  No 
granuloma were identified and immunostains for CMV were 
negative.  He had previously been on remicade, but was started 
on cyclosporine and cortifoam enemas during his last 
hospitalization.  CMV viral load, stool cultures, and c. diff 
were negative.  He was empirically treated with cipro and flagyl 
and completed am empiric 10 day course on ___.

Patient reports that the day after finishing his cipro/flagyl 10 
day course, he developed fevers to 102 at home.  He redeveloped 
LLQ crampy abdominal pain, and worsening watery diarrhea with up 
to 6 episodes daily with no blood or dark stools.  Patient 
denies any oral ulcers, arthralgias, or skin rashes.  He has 
lost 6 lbs since his discharge, though he reports that his PO 
intake has been adequate and his appetite usually is intact.  He 
has been taking tylenol for his fevers.  Denies any cough, chest 
pain, shortness of breath, dysuria. 

Of note, patient reports that he feels depressed, and is 
frequently emotional at home.  He has not been sleeping well, 
his energy is low, he has lost interest in daily activities, his 
concentration is poor.  He denies any SI/HI.  His wife is 
present and is his source of support.

In the ED, initial vs were: T:97.8, P: 110, BP: 119/82, R: 18, 
O2 sat: 98%RA.  Patient was given potassium and magnesium 
repletion.  Chest radiograph demonstrated no acute process.  CT 
abdomen and pelvis with contrast demonstrated rectal and colonic 
hyperemia and thickening to level of splenic flexure with 
associated fat stranding, consistent with active crohn's flare.  
No abscess, fistula, obstruction, or free air.  Cipro was given, 
flagyl had been ordered but not administered.  GI was consulted, 
who recommended continuing cipro/flagyl and cyclosporine and 
obtaining stool studies.  He may be considered for repeat flex 
sig in the AM.  

On the floor, patient reports that his abdominal pain is mild in 
nature.  He has not diarrhea for several hours.
  
Review of systems:  
(+) Per HPI  
(-) Denies sinus tenderness, rhinorrhea or congestion. Denied 
cough, shortness of breath. Denied chest pain or tightness, 
palpitations. Denied nausea, vomiting, constipation. No dysuria. 
Denied arthralgias or myalgias.  
 
Past Medical History:
- Crohn's Disease diagnosed ___, recently discharged ___ 
following flare; has not responded to trials of steroids, 
Remicade
- GERD
- Diverticulosis
- Nephrolithiasis
(+) PPD on INH
- Depression
 
Social History:
___
Family History:
No history of GI disorders.
- Father: DM, ___/CABG
- Mother: Healthy
 
Physical ___:
Vitals: T: 99.5 BP:140/103 P:101 R:20 O2:98RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, minimal tenderness LLQ, ___, bowel 
sounds ++ X 4Q, no rebound tenderness or guarding, no 
organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: ___ intact, motor function grossly normal 
 
Pertinent Results:
I. Labs

A. Admission

___ 02:35PM BLOOD ___ 
___ Plt ___
___ 02:35PM BLOOD ___ 
___
___ 02:35PM BLOOD ___ ___
___ 07:20AM BLOOD ___
___ 02:35PM BLOOD ___ 
___
___ 02:35PM BLOOD ___ LD(LDH)-172 ___ 
___
___ 02:35PM BLOOD ___
___ 02:35PM BLOOD ___

B. Urine
___ 02:35PM URINE ___ Sp ___
___ 02:35PM URINE ___ 
___
___ 02:35PM URINE ___ 
___
___ 02:35PM URINE ___

C. Discharge

___ 07:20AM BLOOD ___ LD(LDH)-177 ___ 
___ 
___ 06:46AM BLOOD ___ 
___ Plt ___
___ 05:18AM BLOOD ___ 
___
___ 05:18AM BLOOD ___

II. Microbiology

HEP B: HBSAG NEGATIVE, HBSAB NEGATIVE, IGM HBC NEGATIVE
HEP C: HCV AB NEGATIVE
HIV NEGATIVE
BLOOD CULTURE ___: NO GROWTH TO DATE (PRELIM)
CMV VIRAL LOAD ___: NOT DETECTED
CRYPTO ANTIGEN ___: NOT DETECTED
BLOOD FUNGAL AND AFB CULTURE ___: Negative (PRELIM) 
STOOL CDIFF ___: Negative 

III. Radiology

A. CXR (___): No acute cardiopulmonary process. No free air 
under the 
diaphragms. 

B. CT Abdomen/Pelvis (___): Bowel wall thickening from the 
level of rectum to the splenic flexure with associated small 
lymph nodes and fat stranding, consistent with active 
inflammatory bowel disease. Concurrent skip areas of mural 
thickening involving the hepatic flexure and proximal transverse 
colon. No evidence of abscess or fistulae. No obstruction or 
free air. 

C. LOWER EXTREMITY ULTRASOUND (___): NO DVT

IV. GI Report 

A. Sigmoidoscopy Report: 
- Erythema, friability and ulceration in the descending colon, 
sigmoid colon and rectum compatible with Crohns colitis (biopsy)
- Otherwise normal sigmoidoscopy to splenic flexure 
Recommendations: Erythema, ulceration consistent with active 
Crohns colitis. Biopsies sent for CMV assessment and histology. 

V. Pathology

Sigmoid/descending colon, biopsy:
- Chronic active colitis.
- CMV viral cytopathic effect:

One of the biopsy fragments contains cytomegalovirus viral 
cytopathic effect within the lamina propria. Dr. ___ 
reviewed the H&E sections and concurs.

- CMV immunostain is negative; however, there is no change in 
the above diagnosis.
- AFB stain is negative for mycobacteria.
 
Brief Hospital Course:
Hospital Course: ___ male with past medical history of 
recently diagnosed Crohns disease refractory to TNF/steroid 
agents with recent discharge on ___ following 
hospitalization for Crohns flare with past medical history 
significant for GERD, diverticulosis, nephrolithiasis who 
presented with fever, left lower quadrant abdominal pain, and 
diarrhea for the last three days consistent with recurrent 
Crohns flare based on imaging complicated by probable CMV 
colitis. 

# Crohns Flare with CMV colitis:
Patient was diagnosed with Crohn's disease in ___ ___omplicated by TPN requirement secondary to ___ weight loss 
and failure of steroid therapy. He was subsequently started on 
remicade, which was complicated by the fact of a prior positive 
PPD with incomplete treatment with INH due to elevated LFTs in 
the remote past. He had no response to remicade. He subsequently 
presented in ___ with another Crohn's flare complicated 
by ___ anemia with sigmoidoscopy on ___ 
revealing discrete large colonic ulcers with biopsy showing 
severely active colitis with ulceration with no granulomata or 
dysplasia idenitifed and negative CMV stains. Infection ___ 
in the setting of fever during hospitalization was negative and 
he was empirically treated with a ___ course of flagyl and 
ciprofloxacin. He was started on cyclosporine and cortefoam 
enemas.

For this hospitalization, he presented with fever (102 per home 
measurement), ___ of LLQ crampy abdominal pain, and 
worsening ___ watery diarrhea after finishing his ___ 
course of cipro/flagyl from his last hospitalization. Abdominal 
CT/pelvis and sigmoidoscopy was consistent with Crohns flare; 
however, given immunosuppresion and fever, there was a concern 
for an infectious process such as C. difficile colitis, CMV 
infection, or other infectious colitis in setting of recent 
hospitalization, antibiotic therapy, and immunosuppresion. He 
was started on cipro/flagyl again with pathology from flex sig 
showing possible CMV colitis though CMV PCR was negative. The 
patient spiked fevers throughout his hospitalization, likely 
secondary to underlying colitis and inflammation with negative 
infection ___ and negative repeat abdominal CT looking for 
abscess, perforation, or worsening colitis.

The patient's course was discussed with Dr. ___ set the 
parameters of the patient being afebrile for 24 hours with BM<5 
for 24 hours for discharge. He did not improve with Cyclosporine 
and so on ___, GI recommendations from Dr. ___: 
Cyclosporine and INH were discontinued and steroids and MTX were 
started.

At this point the patient was transferred to the ___, as 
he preferred not to be on a teaching service. 

Various ID tests were checked on ___ on ___ with 
the following results: HIV and hepatitis serologies negative.

At discharge, he was continued on Prednisone taper starting at 
60mg daily, IV Ganciclovir x3 weeks (PICC placed) followed by PO 
Valganciclovir for 3 months. He will be followed by a ___. Mr. 
___ completed a ___ course of Cipro and Flagyl in the 
hospital.

He should continue isoniazid and pyridoxine for 9 months (start 
___ given hx latent TB in the context of recent remicade use.  
During the hospitalization, he may have developed a fever from 
isoniazid so it was recommended that he temporarily stop using 
it.  Infectious disease will decide in ___ clinic whether 
or not to restart it.

He will require extensive followup as follows: 
- GI followup with Dr. ___
- ID followup, with weekly labs faxed to ___ clinic by the ___ to 
monitor for ganciclovir side effects.
- PCP followup
- ___ followup for CMV retinitis- patient given phone number 
to make appointment

Of note, the patient had low values of Magnesium and Potassium 
secondary to diarrhea and required supplementation.  Diarrhea 
slowly improved, so his Potassium level did not require 
supplementation at the end of hospitalization.  Magnesium 
supplementation was continued at the time of discharge.

# Coagulopathy: The patient's INR rose slightly during his stay, 
from 1.2 to 1.6, likely secondary to malnutrition. With improved 
PO intake, the INR decreased to 1.3

# Normocytic anemia:
The patient's Hct was within its normal fluctuating baseline 
with no appreciable acute blood loss during hospitalization. 
Etiology is likely multifactorial from systemic inflammation 
from underlying chronic inflammation/Crohns and possible drug 
side effect with cyclosporine. He was continued on home ferrous 
sulfate. He required no transfusions during hospitalization. 

# Depression
Differential includes depression vs. adjustment disorder vs. 
secondary to drug side effect given recent diagnosis of IBD, 
multiple hospitalizations, and cyclosporine. Patient's affect 
initially constricted and depressed. After patient education 
about illness, more expansive with hope with periods of sadness. 
He denied SI/HI throughout hospitalization. He was continued on 
fluoxetine.

# Presumed Latent TB:
See above discussion in Crohns section about PPD history and 
rationale for current treatment. Isoniazid was discontinued on 
___ as it was thought that it caused a drug fever.  
Pyridoxine continued.  It will be decided in ___ clinic ___ 
when and if he will be restarted on Isoniazid.

# GERD:
He was continued on omeprazole 

# Hypertension
The patient's beta blocker (atenolol) had been discontinued 
during his hospitalizations. It was restarted at a reduced dose 
(originally 50 mg daily was decreased to 25 mg daily) given 
concern for low blood pressure with ongoing fluid loss in 
diarrhea. Was restarted during this hospitalization given 
elevated SBP and patient preference. 

# Shoulder pain
The patient developed shoulder pain during his hospitalization 
that was musculoskeletal on exam. Patient was treated with 
Flexeril with good result.

### Pending studies - 
Strongyloides serologies ___
 
Medications on Admission:
- multivitamin Tablet Sig: One (1) Cap PO DAILY (Daily).  
- folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
- thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
- fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
- isoniazid ___ mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
- omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
- simvastatin 20mg QD
- pyridoxine 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
- cyclosporine 100 mg Capsule Sig: 2.5 Capsules PO Q12H (every 
12 hours) 
- hydrocortisone acetate 10 % (80 mg) Foam  BID
- hyoscyamine sulfate 0.125 mg Tablet, Sublingual Sig: One (1) 
Tablet, Sublingual Sublingual TID (3 times a day) as needed for 
mouth cramps.  
- lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety/insomnia.  
- ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO TID (3 times a day) 
 
Discharge Medications:
1. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. folic acid 1 mg Tablet Sig: Five (5) Tablet PO once a week: 
Take on ___ (the day after Methotrexate dose).
Disp:*20 Tablet(s)* Refills:*0*
3. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).
Disp:*60 Capsule(s)* Refills:*0*
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
6. pyridoxine 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. hyoscyamine sulfate 0.125 mg Tablet, Sublingual Sig: One (1) 
Tablet, Sublingual Sublingual TID (3 times a day) as needed for 
cramps.
Disp:*30 Tablet, Sublingual(s)* Refills:*0*
8. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours as needed for anxiety.
Disp:*20 Tablet(s)* Refills:*0*
9. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
10. magnesium oxide 250 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
11. cortisone 1 % Cream Sig: One (1) Appl Topical QID (4 times a 
day).
Disp:*1 tube* Refills:*0*
12. atenolol 25 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
13. Heparin Flush 10 unit/mL Kit Sig: Two (2) mL Intravenous 
once a day for 12 days: flush with NS 10mL followed by Heparin 
2mL daily and PRN per lumen.
Disp:*QS 12 days* Refills:*0*
14. ganciclovir sodium 500 mg Recon Soln Sig: Three Hundred 
Sixty (360) mg Intravenous Q12H (every 12 hours) for 12 days: 
Continue through ___.
Disp:*24 doses* Refills:*0*
15. Normal Saline Flush 0.9 % Syringe Sig: Ten (10) mL Injection 
once a day for 12 days: Flush PICC with NS 10mL followed by 
Heparin 2mL daily and prn per lumen.
Disp:*QS 12 days* Refills:*0*
16. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
17. methotrexate sodium 25 mg/mL Solution Sig: ___ (25) 
mg Injection once a week: Give subcutaneous injection on 
___.
Disp:*4 doses* Refills:*0*
18. prednisone 10 mg Tablet Sig: Sixty (60) mg PO once a day for 
7 days: Take 60mg daily for 1 week, then reduce to 50mg daily 
until you should see Dr. ___.
Disp:*100 tablets* Refills:*1*
19. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*0*
20. ___ D ___ Tablet Sig: One (1) Tablet 
PO twice a day.
Disp:*60 Tablet(s)* Refills:*0*
21. valganciclovir 450 mg Tablet Sig: Two (2) Tablet PO once a 
day for 3 months: Begin ___, the day after finishing IV 
gancyclovir.
Disp:*60 Tablet(s)* Refills:*2*
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
- Crohns disease flare
- Cytomegalovirus colitis

SECONDARY DIAGNOSES:
- Gastroesophageal reflux disease
- Depression
- Hypertension
- Latent tuberculosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were treated for another suspected Crohns flare with CMV 
colitis. We had to place a PICC line in order to give you IV 
antibiotics. You will be treated with IV Ganciclovir, 
Ciprofloxacin by mouth and Flagyl by mouth.   

Medication changes:
CROHNS MEDS:
- START Prednisone taper: take 60mg daily for 1 week, then 
reduce to 50mg daily until you see Dr. ___.
- START Hydrocortisone anal cream
- START Methotrexate 25mg subcutaneous injections every 
___.  Please arrange this with your Primary Care 
Physician's office.

CMV Colitis:
- START IV Gancyclovir 360 mg every 12 hours for 3 weeks (stop 
date ___ then transition to Valgancyclovir 900 mg daily 
by mouth for at least 3 months. You will have weekly labs 
checked while on these antibiotics.  Please direct all questions 
regarding your antibiotics to the infectious disease nurses at 
___. 

Latent Tuberculosis:
- Isoniazid (INH) stopped.  Will likely be restarted in ___ 
clinic.

Hypertension:
- DECREASED dose of Atenolol to 25mg daily since your blood 
pressure was lower with your diarrhea.  You may have this 
rechecked with your PCP.

** It is important to take all of your medications on a 
consistent basis. If you miss ___ dose of your medications, please 
call your doctor immediately. 
 
Followup Instructions:
___